US09371299B2
Synthesis of 2-isocyanato-3-phenyl-propionic acid ethyl ester (intermediate)
To an ice-cold suspension of L-phenylalanine ethyl ester hydrochloride (25.0 g, 109 mmol) in methylene chloride (800 mL) a saturated solution of sodium bicarbonate (800 mL) was added and the mixture was vigorously stirred at 0° C. for 30 minutes. Stirring was stopped to allow the separation of the two layers and a solution of phosgene in toluene (20%, 100 mL, 190 mmol) was added directly into the organic layer. Stirring was resumed while keeping the mixture at 0° C. for one hour and at room temperature for one additional hour. The organic layer was separated, and washed sequentially with water and a saturated solution of sodium chloride, dried with sodium sulphate, filtered and evaporated to yield a colorless oil that slowly solidifies (22.7 g, 95% yield).

reactant | L-phenylalanine ethyl ester hydrochloride | 109 mmol, 25.0 g | Cl.C(C)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | sodium bicarbonate | 800 mL | C([O-])(O)=O.[Na+]
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 190 mmol, 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 800 mL | C(Cl)Cl | CH2Cl2
product | 2-isocyanato-3-phenyl-propionic acid ethyl ester | 95% yield | C(C)OC(C(CC1=CC=CC=C1)N=C=O)=O | C12H13NO3
